** sch_path: /home/designer/shared/ihp2603/openpdk-libraries/ihp-sg13g2/sg13g2_io/xschem/sg13g2_Clamp_N43N43D4R.sch
.subckt sg13g2_Clamp_N43N43D4R iovss pad[21] pad[20] pad[19] pad[18] pad[17] pad[16] pad[15] pad[14] pad[13] pad[12] pad[11]
+ pad[10] pad[9] pad[8] pad[7] pad[6] pad[5] pad[4] pad[3] pad[2] pad[1] pad[0] sub gate
*.PININFO iovss:B pad[21:0]:B sub:B gate:B
R1 iovss sub ptap1 A=65.6472p P=386.16u
M1 pad[11] gate iovss sub sg13_hv_nmos w=35.2u l=0.6u ng=8 m=1
M2 pad[12] gate iovss sub sg13_hv_nmos w=35.2u l=0.6u ng=8 m=1
M3 pad[13] gate iovss sub sg13_hv_nmos w=35.2u l=0.6u ng=8 m=1
M4 pad[14] gate iovss sub sg13_hv_nmos w=35.2u l=0.6u ng=8 m=1
M5 pad[15] gate iovss sub sg13_hv_nmos w=35.2u l=0.6u ng=8 m=1
M6 pad[16] gate iovss sub sg13_hv_nmos w=35.2u l=0.6u ng=8 m=1
M7 pad[17] gate iovss sub sg13_hv_nmos w=35.2u l=0.6u ng=8 m=1
M8 pad[18] gate iovss sub sg13_hv_nmos w=35.2u l=0.6u ng=8 m=1
M9 pad[19] gate iovss sub sg13_hv_nmos w=35.2u l=0.6u ng=8 m=1
M10 pad[20] gate iovss sub sg13_hv_nmos w=35.2u l=0.6u ng=8 m=1
M11 pad[21] gate iovss sub sg13_hv_nmos w=17.6u l=0.6u ng=4 m=1
D1 sub gate dantenna l=0.48u w=0.48u
M12 pad[0] gate iovss sub sg13_hv_nmos w=35.2u l=0.6u ng=8 m=1
M13 pad[1] gate iovss sub sg13_hv_nmos w=35.2u l=0.6u ng=8 m=1
M14 pad[2] gate iovss sub sg13_hv_nmos w=35.2u l=0.6u ng=8 m=1
M15 pad[3] gate iovss sub sg13_hv_nmos w=35.2u l=0.6u ng=8 m=1
M16 pad[4] gate iovss sub sg13_hv_nmos w=35.2u l=0.6u ng=8 m=1
M17 pad[5] gate iovss sub sg13_hv_nmos w=35.2u l=0.6u ng=8 m=1
M18 pad[6] gate iovss sub sg13_hv_nmos w=35.2u l=0.6u ng=8 m=1
M19 pad[7] gate iovss sub sg13_hv_nmos w=35.2u l=0.6u ng=8 m=1
M20 pad[8] gate iovss sub sg13_hv_nmos w=35.2u l=0.6u ng=8 m=1
M21 pad[9] gate iovss sub sg13_hv_nmos w=35.2u l=0.6u ng=8 m=1
M22 pad[10] gate iovss sub sg13_hv_nmos w=35.2u l=0.6u ng=8 m=1
.ends
