** sch_path: /home/designer/shared/ihp2603/openpdk-libraries/ihp-sg13g2/sg13g2_io/xschem/sg13g2_Corner.sch
.subckt sg13g2_Corner iovdd vdd vss sub iovss1 iovss3 iovss2
*.PININFO vss:B iovdd:B vdd:B sub:B iovss1:B iovss2:B iovss3:B
R3 iovss3 sub ptap1 A=2278.0436p P=235.225u
R4 vss sub ptap1 A=13.1934p P=84.705u
* noconn iovdd
* noconn vdd
R1 iovss1 sub ptap1 A=4546.51p P=420.33u
R2 iovss2 sub ptap1 A=3344.1864p P=326.865u
.ends
