** sch_path: /home/designer/shared/ihp2603/openpdk-libraries/ihp-sg13g2/sg13g2_io/xschem/sg13g2_DCNDiode.sch
.subckt sg13g2_DCNDiode cathode1 anode cathode2 guard sub
*.PININFO cathode2:B guard:B anode:B cathode1:B sub:B
R1 anode sub ptap1 A=141.2964p P=221.76u
D1 sub cathode1 dantenna l=27.78u w=1.26u
* noconn guard
D2 sub cathode2 dantenna l=27.78u w=1.26u
.ends
