** sch_path: /home/designer/shared/ihp2603/openpdk-libraries/ihp-sg13g2/sg13g2_io/xschem/sg13g2_IOPadAnalog.sch
.subckt sg13g2_IOPadAnalog iovdd1 vss pad vdd sub padres iovss iovdd
*.PININFO padres:B iovdd:B vss:B vdd:B sub:B iovss:B pad:B iovdd1:B
R2 vss sub ptap1 A=23.85p P=159.6u
x1 iovdd iovss pad pad pad pad pad pad pad pad pad pad sub sg13g2_Clamp_P20N0D_noptap
x2 iovdd sub pad pad sub sg13g2_DCPDiode_noptap
x3 iovss pad pad pad pad pad pad pad pad pad pad sub sg13g2_Clamp_N20N0D
x4 pad iovss pad iovdd sub sg13g2_DCNDiode
x5 padres iovdd1 iovss pad sub sg13g2_SecondaryProtection
* noconn vdd
R1 iovss sub ptap1 A=4373.9448p P=1112.3u
.ends

* expanding   symbol:  sg13g2_Clamp_P20N0D_noptap.sym # of pins=4
** sym_path: /home/designer/shared/ihp2603/openpdk-libraries/ihp-sg13g2/sg13g2_io/xschem/sg13g2_Clamp_P20N0D_noptap.sym
** sch_path: /home/designer/shared/ihp2603/openpdk-libraries/ihp-sg13g2/sg13g2_io/xschem/sg13g2_Clamp_P20N0D_noptap.sch
.subckt sg13g2_Clamp_P20N0D_noptap iovdd iovss pad[9] pad[8] pad[7] pad[6] pad[5] pad[4] pad[3] pad[2] pad[1] pad[0] sub
*.PININFO iovss:B iovdd:B pad[9:0]:B sub:B
M1 pad[0] net1 iovdd iovdd sg13_hv_pmos w=26.64u l=0.6u ng=4 m=1
M2 pad[1] net1 iovdd iovdd sg13_hv_pmos w=26.64u l=0.6u ng=4 m=1
M3 pad[2] net1 iovdd iovdd sg13_hv_pmos w=26.64u l=0.6u ng=4 m=1
M4 pad[3] net1 iovdd iovdd sg13_hv_pmos w=26.64u l=0.6u ng=4 m=1
M5 pad[4] net1 iovdd iovdd sg13_hv_pmos w=26.64u l=0.6u ng=4 m=1
M6 pad[5] net1 iovdd iovdd sg13_hv_pmos w=26.64u l=0.6u ng=4 m=1
M7 pad[6] net1 iovdd iovdd sg13_hv_pmos w=26.64u l=0.6u ng=4 m=1
M8 pad[7] net1 iovdd iovdd sg13_hv_pmos w=26.64u l=0.6u ng=4 m=1
M9 pad[8] net1 iovdd iovdd sg13_hv_pmos w=26.64u l=0.6u ng=4 m=1
M10 pad[9] net1 iovdd iovdd sg13_hv_pmos w=26.64u l=0.6u ng=4 m=1
R2 iovdd net1 rppd w=0.5e-6 l=12.9e-6 m=1 b=0
.ends


* expanding   symbol:  sg13g2_DCPDiode_noptap.sym # of pins=5
** sym_path: /home/designer/shared/ihp2603/openpdk-libraries/ihp-sg13g2/sg13g2_io/xschem/sg13g2_DCPDiode_noptap.sym
** sch_path: /home/designer/shared/ihp2603/openpdk-libraries/ihp-sg13g2/sg13g2_io/xschem/sg13g2_DCPDiode_noptap.sch
.subckt sg13g2_DCPDiode_noptap cathode guard anode1 anode2 sub
*.PININFO anode2:B cathode:B guard:B anode1:B sub:B
D1 anode1 cathode dpantenna l=27.78u w=1.26u
D2 anode2 cathode dpantenna l=27.78u w=1.26u
.ends


* expanding   symbol:  sg13g2_Clamp_N20N0D.sym # of pins=3
** sym_path: /home/designer/shared/ihp2603/openpdk-libraries/ihp-sg13g2/sg13g2_io/xschem/sg13g2_Clamp_N20N0D.sym
** sch_path: /home/designer/shared/ihp2603/openpdk-libraries/ihp-sg13g2/sg13g2_io/xschem/sg13g2_Clamp_N20N0D.sch
.subckt sg13g2_Clamp_N20N0D iovss pad[9] pad[8] pad[7] pad[6] pad[5] pad[4] pad[3] pad[2] pad[1] pad[0] sub
*.PININFO iovss:B pad[9:0]:B sub:B
R1 iovss sub ptap1 A=55.7736p P=328.08u
M1 pad[0] net1 iovss sub sg13_hv_nmos w=8.8u l=0.6u ng=2 m=1
M2 pad[1] net1 iovss sub sg13_hv_nmos w=8.8u l=0.6u ng=2 m=1
M3 pad[2] net1 iovss sub sg13_hv_nmos w=8.8u l=0.6u ng=2 m=1
M4 pad[3] net1 iovss sub sg13_hv_nmos w=8.8u l=0.6u ng=2 m=1
M5 pad[4] net1 iovss sub sg13_hv_nmos w=8.8u l=0.6u ng=2 m=1
M6 pad[5] net1 iovss sub sg13_hv_nmos w=8.8u l=0.6u ng=2 m=1
M7 pad[6] net1 iovss sub sg13_hv_nmos w=8.8u l=0.6u ng=2 m=1
M8 pad[7] net1 iovss sub sg13_hv_nmos w=8.8u l=0.6u ng=2 m=1
M9 pad[8] net1 iovss sub sg13_hv_nmos w=8.8u l=0.6u ng=2 m=1
M10 pad[9] net1 iovss sub sg13_hv_nmos w=8.8u l=0.6u ng=2 m=1
R2 net1 iovss rppd w=0.5e-6 l=3.54e-6 m=1 b=0
.ends


* expanding   symbol:  sg13g2_DCNDiode.sym # of pins=5
** sym_path: /home/designer/shared/ihp2603/openpdk-libraries/ihp-sg13g2/sg13g2_io/xschem/sg13g2_DCNDiode.sym
** sch_path: /home/designer/shared/ihp2603/openpdk-libraries/ihp-sg13g2/sg13g2_io/xschem/sg13g2_DCNDiode.sch
.subckt sg13g2_DCNDiode cathode1 anode cathode2 guard sub
*.PININFO cathode2:B guard:B anode:B cathode1:B sub:B
R1 anode sub ptap1 A=141.2964p P=221.76u
D1 sub cathode1 dantenna l=27.78u w=1.26u
* noconn guard
D2 sub cathode2 dantenna l=27.78u w=1.26u
.ends


* expanding   symbol:  sg13g2_SecondaryProtection.sym # of pins=5
** sym_path: /home/designer/shared/ihp2603/openpdk-libraries/ihp-sg13g2/sg13g2_io/xschem/sg13g2_SecondaryProtection.sym
** sch_path: /home/designer/shared/ihp2603/openpdk-libraries/ihp-sg13g2/sg13g2_io/xschem/sg13g2_SecondaryProtection.sch
.subckt sg13g2_SecondaryProtection core iovdd iovss pad sub
*.PININFO iovss:B core:B pad:B iovdd:B sub:B
R1 iovss sub ptap1 A=9.0304p P=53.12u
D1 core iovdd dpantenna l=4.98u w=0.64u
R2 core pad rppd w=1e-6 l=2e-6 m=1 b=0
D2 sub core dantenna l=3.1u w=0.64u
.ends

